US04661486
4-Methoxy-6-(4-methylphenyl)-4,5-dihydro-2H-pyridazin-3-one (Compound No. 18)
0.5 g of hydrazine hydrate (100%) was added, at room temperature, to a solution of 2.22 g of 2-methoxy-4-(4-methylphenyl)-4-oxobutyric acid (prepared as described in Preparation 2) in 20 ml of methanol, and the mixture was allowed to stand at room temperature overnight. The crystals which precipitated were collected by filtration and washed with methanol, to give 1.35 g of the title compound. The filtrate was concentrated by evaporation at 50° C. and the resulting residue was washed with methanol, giving a further 0.5 g of the pure title compound, melting at 167°-169.5° C. The total yield was 85%.

reactant | hydrazine hydrate | 0.5 g | O.NN
reactant | 2-methoxy-4-(4-methylphenyl)-4-oxobutyric acid | 2.22 g | COC(C(=O)O)CC(=O)C1=CC=C(C=C1)C | C12H14O4
solvent | methanol | 20 ml | CO | CH4O
product | 4-Methoxy-6-(4-methylphenyl)-4,5-dihydro-2H-pyridazin-3-one | 1.35 g, yield was 85% | COC1C(NN=C(C1)C1=CC=C(C=C1)C)=O | C12H14N2O2
